US05310500
3) Synthesis of 6-n-nonanoyloxy-2-naphthoic acid
6-hydroxy-2-naphthoic acid (3.0 g) and triethylamine (2.4 g) were dissolved in 30 ml of dichloromethane. Nonanoyl chloride (4.0 g) and dimethylaminopyridine (0.2 g) were added to the solution, and the mixture was stirred at room temperature for about 20 hours. Dilute hydrochloric acid was added, and the organic layer was separated in a separating funnel. The solvent was removed by evaporation, and the residue was dried after washing with n-hexane to give 4.5 g of the desired product.

reactant | 6-hydroxy-2-naphthoic acid | 3.0 g | OC=1C=C2C=CC(=CC2=CC1)C(=O)O | C11H8O3
reactant | Nonanoyl chloride | 4.0 g | C(CCCCCCCC)(=O)Cl | C9H17ClO
reactant | dimethylaminopyridine | 0.2 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | triethylamine | 2.4 g | C(C)N(CC)CC | C6H15N
product | 6-n-nonanoyloxy-2-naphthoic acid | 4.5 g | C(CCCCCCCC)(=O)OC=1C=C2C=CC(=CC2=CC1)C(=O)O | C20H24O4
